US05166399
3.0 g (0.022 mol) of 4-hydroxyacetophenone and 6.0 g (0.021 mol) of methyl 2-bromomethylphenylglyoxylate O-methyloxime are dissolved in 30 ml of dimethylformamide, and 5.5 g (0.040 mol) of potassium carbonate are added. The mixture is stirred at room temperature for 24 hours, hydrolyzed with water and extracted with methyl tert-butyl ether. The organic phase is washed with water, dried and concentrated. 5.3 g (78%) of methyl 2-(4-acetylphenoxymethyl)phenylglyoxylate O-methyloxime are obtained as a colorless oil.

reactant | 4-hydroxyacetophenone | 0.022 mol, 3.0 g | CC(=O)C=1C=CC(=CC1)O | C8H8O2
reactant | methyl 2-bromomethylphenylglyoxylate O-methyloxime | 0.021 mol, 6.0 g | CON=C(C(=O)OC)C1=C(C=CC=C1)CBr | C11H12BrNO3
reactant | potassium carbonate | 0.040 mol, 5.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | methyl 2-(4-acetylphenoxymethyl)phenylglyoxylate O-methyloxime | 5.3 g, 78% | CON=C(C(=O)OC)C1=C(C=CC=C1)COC1=CC=C(C=C1)C(C)=O | C19H19NO5
